US07566699B2
3-[2-(4-Benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzofuran
To a solution of 3-[2-(4-carboxyphenyl)ethyl]-4-hydroxybenzofuran (0.25 g) in tetrahydrofuran (1 mL) were added benzyl alcohol (96 mg), triphenylphosphine (0.26 g) and diethyl azodicarboxylate (40% toluene solution, 0.43 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give the title compound (0.26 g).

reactant | 3-[2-(4-carboxyphenyl)ethyl]-4-hydroxybenzofuran | 0.25 g | C(=O)(O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H14O4
reactant | benzyl alcohol | 96 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenylphosphine | 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.43 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-[2-(4-Benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzofuran | 0.26 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C24H20O4
